US06936602B1
In THF (7.8 ml)/methanol (7.8 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-trimethylsilyl-2-propynyl)-2,3-dihydro-1-benzazepine-4-carboxylate (0.78 g). To the solution was added 2N potassium hydroxide (7.8 ml), and the mixture was stirred at room temperature for 16 hours. pH was adjusted to approximate 4 with 6N hydrochloric acid, and the solvent was concentrated to half under reduced pressure. The concentrated material was extracted with ethyl acetate, and the extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure and the resulting residue was washed with hexane/ethyl acetate (=8/1) to give 7-[4-(2-butoxyethoxy)phenyl]-1-(2-propynyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (0.52 g).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-trimethylsilyl-2-propynyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 0.78 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC#C[Si](C)(C)C)C(=O)OC)C1 | C30H39NO4Si
reactant | potassium hydroxide | 2N, 7.8 ml | [OH-].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | THF | 7.8 ml | C1CCOC1 | C4H8O
solvent | methanol | 7.8 ml | CO | CH4O
product | 7-[4-(2-butoxyethoxy)phenyl]-1-(2-propynyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 0.52 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC#C)C(=O)O)C1 | C26H29NO4
